* AD8237 SPICE Macro-model
* Description: Micropower, Zero Drift, Rail to Rail In-Amp
*
* Developed by: Fotjana Bida
* Revision History:
* 1.0 (08/30/2012) - FB
*
* Copyright 2012 by Analog Devices, Inc.
*
* Refer to http://www.analog.com/Analog_Root/static/techSupport/designTools/spiceModels/license/spice_general.html
* for License Statement. Use of this model indicates your acceptance
* of the terms and provisions in the License Statement.
*
*
* Not Modeled:
*   Temperature effects
*   CM SR limitation
*
* Parameters modeled include:
*   Gain
*	Bandwidth
*	Noise
*	CMRR vs. frequency
*	PSRR vs. frequency
*	Vosi
*	Ibias/Ios
*	Ibias vs. VCM
*	Ibias vs. Vdiff
*	Input Capacitance
*	Quiescent Current
*	Input/Output clamping
*	Max Diff Input limitation
*	Gain Error
*	Pulse vs. cap load
*
* Node assignments
*                 BW Mode selection
*                 |   non-inverting input
*                 |   |    inverting input
*                 |   |    |    negative supply
*                 |   |    |    |    positive supply
*                 |   |    |    |    |    Reference
*                 |   |    |    |    |    |    Feedback pin
*                 |   |    |    |    |    |    |    output
*                 |   |    |    |    |    |    |     |
*                 |   |    |    |    |    |    |     |
*                 |   |    |    |    |    |    |     |
.SUBCKT AD8237   BW  IN+  IN-  -Vs  +Vs  REF  FB  VOUT
* Setting input Vos
VOS N014 IN+ 37.5e-6
VOS1 N025 REF 37.5e-6
* Setting Ibias
I23 IN- 0 -1e-12
I24 FB 0 -1e-12
I1 IN+ 0 -650e-12
I2 REF 0 -650e-12
* Input Buffers
G7 0 V+ N016 V+ 1
R4 V+ 0 10E9
G8 0 V- N004 V- 1
R5 V- 0 10E9
* Vary Ibias with VCM
G1 0 IN+ N021 N023 1.26e-9
R13 IN+ N021 10e9
R14 N021 IN- 10e9
R15 +Vs N023 10e9
R16 N023 -Vs 10e9
G2 0 IN- N021 N023 1.26e-9
*****
E10 VPOSx 0 +Vs 0 1
E11 VNEGx 0 -Vs 0 1
* Set Isup
I3 +Vs -Vs 130E-6
* Setting Noise
H3 N003 IN- V24 67.3
V24 N001 0 0
R19 N001 0 .0166
* Setting Gm stage
G4 0 Out_inp V- V+ 100e-6
G5 0 Out_inp FB N025 100e-6
R10 Out_inp 0 10e9
R11 Out_inp 0 10E9
* Setting the output amp
G6 0 sub_out 0 Out_inp 1
R1 sub_out 0 10E9
* Setting Comp Cap for BWLO and BWHI
* BW - gm*vin*C1
C1 sub_out N020 85e-12
C2 N020 N019 25e-12
* Common Mode input clamping
D7 V+ N012 D
D8 N018 V+ D
V3 VPOSx N012 0.55
V4 N018 VNEGx 0.6
D9 V- N002 D
D10 N006 V- D
V5 VPOSx N002 0.55
V6 N006 VNEGx 0.6
* Setting Positive PSRR
* Pos_PSRR: DC set R7/(R6+R7), the cap defines roll off (R7//C3)
EPSRR+ N015 N014 100 200 1
E1 100 0 N024 0 1
R6 200 100 1
R7 0 200 1e6
C3 200 0 0.3e-6
R9 N024 0 1e6
C4 +Vs N024 100e-6
* Setting Negative PSRR
* Neg_PSRR: DC set R17/(R12+R17), the cap defines roll off
EPSRR- N004 N003 300 400 1
E2 300 0 N026 0 1
R12 400 300 0.5
R17 0 400 1e6
C5 400 0 0.5e-6
R18 N026 0 1e6
C6 -Vs N026 100e-6
* output clamping
D16 N013 N009 D
D18 N017 N013 D
V1 N017 N022 0.7
V13 N005 N009 0.7
* Monitor I_out
H1 VPOSx N005 V_current 1
H2 N022 VNEGx V_current 1
V_current VOUT N013 0
* Setting CMRR
* G12*R24 is the gain for CMRR test.  L2/R24 will set the f_corner.
ECMRR N016 N015 cmrr_out 0 1
L2 N028 0 15
R24 cmrr_out N028 500
G12 0 cmrr_out VCM 0 8e-10
R22 IN+ VCM 10e9
R23 VCM IN- 10e9
* Vary Ibias with Vdiff
G11 IN+ IN- IN+ IN- -0.5e-8
* Using a Switch to change the BW mode from Lo to Hi
* When using the SW, there will be and Ron when SW is closed, and Roff when SW is open.
* Depending on how to use the SW, set Ron, Roff values
* Default values: Ron=small, Roff=large
* Vh=0 which V hysteresis. When 0, SW will always be either completely ON or OFF
* The Voltage across +/- controls the switch. In this case when BW_Mode=Von, the SW will close
* When BW_Mode=Voff SW is OFF (or open) both C1&C2 will be on (BWHI)
* HIBW set when both C1 & C2 are on
S1 N020 N019 BW 0 SW
.model SW Vswitch (Ron=1e-3 Roff=1e9 Von=-2.5 Voff=+2.5 Vh=0)
* Adding High freq pole & zero
* (G9)*R = DC value (1.2dB)
* adding high freq poles (C7/R21) ~300kHz
* adding high freq zero (C1/R28) ~120kHz
G9 0 N013 sub_out 0 0.0023
R21 N013 0 500
C7 N013 0 2e-9
R28 N019 Out_inp 10k
* C8 & C10 set input cap. Cin=10pF for CM,Cin=5pF for Diff
C8 IN- 0 10e-12
C10 IN+ 0 10e-12
* max Input Diff_volt = 1.1V from VDD
E3 N010 V- VPOSX N007 1
E4 V- N011 VPOSX N008 1
D1 V+ N010 D
D2 N011 V+ D
V7 N007 VNEGX 1.6
V8 N008 VNEGX 1.6
* Vary Ibias with VCM
G3 0 REF N027 N029 1.26e-9
R8 FB N027 10e9
R20 N027 REF 10e9
G10 0 FB N027 N029 1.26e-9
R2 +Vs N029 10e9
R3 N029 -Vs 10e9
* set the model of DIO
.model D D
*******
.backanno
.ends AD8237
